US05932571
Synthesis of 4-(1-(N-methylacetamido)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt
Combine 1-(t-butoxycarbonyl)-4-(1-(N-methylacetamido)-1H-benzimidazol-2-yl)[1,4]diazepane (0.18 g, 0.48 mmol) and dichloromethane (10 mL). Add hydriodic acid (0.17 mL, 57%, 0.95 mmol) and warm to 40° C. After 3 hours, cool to ambient temperature and evaporate in vacuo to give a residue. Combine the residue and diethyl ether with stirring to give a solid. Collect the solid by filtration to give, after drying, the title compound.

reactant | 1-(t-butoxycarbonyl)-4-(1-(N-methylacetamido)-1H-benzimidazol-2-yl)[1,4]diazepane | 0.48 mmol, 0.18 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1N(C(C)=O)C)C=CC=C2 | C20H29N5O3
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
reactant | hydriodic acid | 0.95 mmol, 0.17 mL | I | HI
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(1-(N-methylacetamido)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | I.CN(C(C)=O)N1C(=NC2=C1C=CC=C2)N2CCNCCC2 | InChI=1S/C15H21N5O.HI/c1-12(21)18(2)20-14-7-4-3-6-13(14)17-15(20)19-10-5-8-16-9-11-19;/h3-4,6-7,16H,5,8-11H2,1-2H3;1H
